US04786644
A solution of 12.63 g of aniline and 10.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 250 ml of toluene was refluxed for 24 hours in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: dichloromethane as the eluent). The resultant solution was degassed and evaporated. Recrystallization of the residue from diethyl ether yielded 7.55 g (65%) of 1,2-dihydro-4-hydroxy-1-phenyl-N-phenyl-3-quinolinecarboxamide, m.p. 120° C.

reactant | aniline | 12.63 g | NC1=CC=CC=C1 | C6H7N
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 10.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydro-4-hydroxy-1-phenyl-N-phenyl-3-quinolinecarboxamide | 7.55 g, 65% | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1 | C22H18N2O2
